*LM1496N 14 pins
*              +sig_in gain1 gain2 -sig_in bias out1 NC  +carr_in NC  -carr_in NC  out2 NC  V- 
.subckt LM1496N    1      2     3      4     5    6   7      8     9      10    11   12  13  14
Q1 6 8 N001 0 CA3046
Q2 12 10 N001 0 CA3046
Q3 6 10 N002 0 CA3046
Q4 12 8 N002 0 CA3046
Q5 N001 4 3 0 CA3046
Q6 N002 1 2 0 CA3046
Q7 3 5 N003 0 CA3046
R1 N003 14 500
Q8 2 5 N004 0 CA3046
R2 N004 14 500
Q9 5 5 N005 0 CA3046
R3 N005 14 500
R101 7 9 1e12
R102 9 11 1e12
R103 11 13 1e12
R104 13 7 1e12
R105 13 0 1e12
.ends LM1496N
*******************


* LM1496H 10 pins
*              +sig_in gain1 gain2 -sig_in bias out1  +carr_in  -carr_in  out2  V- 
.subckt LM1496H    1      2     3      4     5    6     8    10   12   14
Q1 6 8 N001 0 CA3046
Q2 12 10 N001 0 CA3046
Q3 6 10 N002 0 CA3046
Q4 12 8 N002 0 CA3046
Q5 N001 4 3 0 CA3046
Q6 N002 1 2 0 CA3046
Q7 3 5 N003 0 CA3046
R1 N003 14 500
Q8 2 5 N004 0 CA3046
R2 N004 14 500
Q9 5 5 N005 0 CA3046
R3 N005 14 500
R101 7 9 1e12
R102 9 11 1e12
R103 11 13 1e12
R104 13 7 1e12
R105 13 0 1e12
.ends LM1496H
**************************************

.model CA3046 NPN (IS=10.0e-15 XTI=3.000e+00 EG=1.110e+00 VAF=1.00e+02 VAR=1.000e+02 BF=145.7e+00 ISE=114.286e-15 NE=1.480e+00 IKF=46.700e-03 XTB=0.000e+00 BR=.1000e+00 ISC=10.005e-15 NC=2.000e+00 IKR=10.00e-03 RC=10.000e+00 CJC=991.71e-15 MJC=0.333e-00 VJC=0.7500e-00 FC=5.000e-01 CJE=1.02e-12 MJE=.336E-00 VJE=0.750e-00 TR=10.000e-09 TF=277.01e-12 ITF=1.750e-00 XTF=309.38e+00 VTF=16.37e+00 PTF=0.000e+00 RE=0.0e+00 RB=0.00e+00)
